US08729074B2
6-Bromo-3-(5,6-dimethoxy-3-pyridinyl)imidazo[1,2-a]pyridine
6-bromoimidazo[1,2-a]pyridine. To a 100 mL round-bottomed flask was added 2-amino-5-bromopyridine (5.04 g, 29.1 mmol), chloroacetaldehyde, approx. 50 wt. % solution in water (18.74 mL, 146 mmol), and EtOH (25 mL). The resulting reaction mixture was heated at 100° C. under N2 for 4 h. The reaction was cooled to rt. Solvent was concentrated. The residue was redissolved in EtOAc. The organic layer was washed with sat. NaHCO3 (2×40 mL), water (2×40 mL), brine, dried over MgSO4 and removed solvent. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, 120 g SiO2, DCM:MeOH=96%:4% to DCM:MeOH (2M NH3)=95%:5%, Flow=85 mL/min). Solvent was removed in vacuo to afford the desired product as brown solid (5.0 g). MS (ESI pos. ion) m/z: 196.9. Calcd exact mass for C7H5BrN2: 195.9. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.24 (d, J=9.65 Hz, 1H) 7.54 (d, J=9.65 Hz, 1H) 7.57 (s, 1H) 7.65 (s, 1H) 8.30 (s, 1H).

reactant | 6-bromoimidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C=CN2 | C7H5BrN2
reactant | 2-amino-5-bromopyridine | 29.1 mmol, 5.04 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | water | 146 mmol, 18.74 mL | O | H2O
reactant | EtOH | 25 mL | CCO | C2H6O
product | 6-Bromo-3-(5,6-dimethoxy-3-pyridinyl)imidazo[1,2-a]pyridine | 5.0 g | BrC=1C=CC=2N(C1)C(=CN2)C=2C=NC(=C(C2)OC)OC | C14H12BrN3O2
